US07977329B2
8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-trifluoroacetyl-8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine (0.014 g, 0.037 mmol) in methanol (1 mL) was treated with 15% aqueous NaOH (1 mL), and stirred for 2 hours at 50 C. The product mixture was diluted with brine (10 mL), extracted twice with EtOAc (10 mL), dried with MgSO4, and concentrated to give 0.008 g of a clear oil. 1H NMR (400 MHz, CD3OD) d 7.26 (s, 1H), 6.78 (s, 1H), 3.83 (s, 3H), 3.02 (m, 2H), 2.92 (m, 2H), 2.67 (s, 2H), 0.91 (m, 2H), 0.85 (m, 2H). MS calculated for C13H16BrNO+H: 282, observed: 282.

reactant | N-trifluoroacetyl-8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.037 mmol, 0.014 g | FC(C(=O)N1CCC2=C(C(C1)C1CC1)C=C(C(=C2)OC)Br)(F)F | C16H17BrF3NO2
reactant | NaOH | 1 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | brine | 10 mL | [Cl-].[Na+].O
product | 8-bromo-1-cyclopropyl-7-methoxy-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.008 g | BrC=1C(=CC2=C(C(CNCC2)C2CC2)C1)OC | C14H18BrNO
